US04074047
1-Bromo-1-ethoxycarbonylcyclopentane
A solution of 1-bromocyclopentanecarboxylic acid (5.1 g) in ethanol (40 ml) containing concentrated sulphuric acid (10 drops) was refluxed for 4 hours. The solvent was removed by evaporation and the residual oil was partitioned between ether (50 ml) and 2N sodium carbonate (30 ml).

reactant | 1-bromocyclopentanecarboxylic acid | 5.1 g | BrC1(CCCC1)C(=O)O | C6H9BrO2
reactant | ethanol | 40 ml | C(C)O | C2H6O
catalyst | sulphuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | 1-Bromo-1-ethoxycarbonylcyclopentane | BrC1(CCCC1)C(=O)OCC | C8H13BrO2
